Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
vancomycin
 
Attending: ___
 
___ Complaint:
abdominal pain, weakness, question of stroke
 
Major Surgical or Invasive Procedure:
Laparoscopic resection of the proximal rectum and
distal sigmoid colon.

 
History of Present Illness:
Mrs. ___ is a ___ year-old woman with history of 
hypertension and chronic abdominal pain who presented to the ED 
___ with new acute abdominal pain, nausea, vomiting, diarrhea 
and an episode of weakness and confusion. 

Her symptoms began the night of ___ with fever to 104 and 
headache. The next day, she had an episode of nausea,abdominal 
pain, global weakness (arms and legs, unable to rise from sofa), 
nonbloody emesis(looked like "white phlegm"), chills, night 
sweats, and LOC (cannot remember trip to hospital or early 
events in ED). Abdominal pain described as crampy in a band like 
distribution across lower abdomen with no radiation. Family was 
present and noted AMS (high functioning and independent at 
baseline, not typically forgetful per family), loss of memory 
and "jaw just hanging". There was no fall. She has had 1wk of 
"black" diarrhea up to ___ times a day, most recently this 
morning.

Notably, Mrs. ___ has a history of chronic intermittent 
abdominal pain for which she was seen at ___ ___ and 
___. Workup including CT abdomen/pelvis was negative for 
acute process and pain resolved. She was instructed to have 
outpatient primary care follow-up and is managed by her 
physician in ___ with propinox-lysine. She states this 
pain is worse with fatty foods and beans. Additionally, she has 
a h/o cholecystitis that predates this abdominal pain s/p 
cholecystectomy in ___ ___ ago. Has never had colonoscopy, 
reportedly had EGD in ___ in ___ the results of which 
she does now know.

Patient is from ___ and came to ___ 1wk ago to be with 
3 sons. ___ any other travel, sick contacts, TB contacts, 
cough, animal contact, consumption of unpasteurized dairy, rash 
or insect bites. ROS: Denies bloody stools, Chest pain, Cough, 
Dyspnea, Dysuria/freq, rash. Endorses Fever/chills. Per photo 
from son, nasolabial fold flattening and eyebrow drooping on the 
left present previously. Has not eaten x2 days ___ n/v/d.

In the ED, initial vitals: 101.2 111 150/66 18 100% RA 

Labs were significant for: Normal CB, serum ASA 5, AP 117, 
normal chem 10, VBG pH 7.48, pO2 22, lactate 2.5
Per ED, ___ stroke scale of 12 for inattention, disorientation 
to month, inability to follow most commands, nasolabial fold 
flattening on the left, global aphasia. Received 3L NS in ED, 
and vancomycin, Piperacillin-Tazobactam. Had allergic reaction 
to vancomycin (itchy palms and facial swelling and received 
Benadryl to good effect. vanc d/c'd).

In the ED, pt received: IV Piperacillin-Tazobactam, IV 
Vancomycin, IVF  NS, PO Acetaminophen 1000 mg, IV 
DiphenhydrAMINE 25 mg, IV Morphine Sulfate 2 mg, IV Ondansetron 
4 mg, PO Omeprazole 20 mg.

Vitals prior to transfer from ED: 99.1 77 112/51 16 100% RA 

On admission, Mrs. ___ says she feels back to normal, 
without pain or confusion. She is sitting comfortably in bed, 
surrounded by family. Had an episode of black diarrhea in toilet 
on admission before hat could be placed.
 
ROS:  
Positive for: fevers, chills, night sweats, melana.
Negative for: weight changes. No changes in vision or hearing, 
no changes in balance. No cough, no shortness of breath, no 
dyspnea on exertion. No chest pain or palpitations. No nausea or 
vomiting. No diarrhea or constipation. No dysuria or hematuria. 
No hematochezia. No numbness or weakness, no focal deficits. 
 
Past Medical History:
Cataract surgery in ___ ___
Plate in L arm after fracture
 
Social History:
___
Family History:
No known history of cancers, heart disease, or GI disease.
 
Physical Exam:
#ERROR!
EXAM ON ADMISSION
#ERROR!
VS:  98.1 PO 124 / 68 R Standing 79 17 96% Ra  
GEN: Alert, lying in bed, no acute distress, chatting with 
husband. A&Ox3, able to recite ___ backwards.
HEENT: Dry MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Crackles at base bilaterally without wheeze or rhonchi  
COR: NRRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended. Scar in RUQ at site of 
previous cholecystectomy.  
EXTREM: Warm, well-perfused, no edema  
NEURO: PEERL ___ 4-->2mm II-XII intact. Normal bulk and tone. 
Strength ___ ___ trapezius, arm flexion/extension, hip flexion, 
knee extension, plantar and dorsiflexion. Reflexes 2+ 
throughout. Gait not tested.

D/C PE

General: Doing very well, tolerating a regular diet, ambulating, 
minimal pain.
VSS
Neuro: A&OX3
Cardio/Pulm: no chest pain or shortness of breath
Abd: laparoscopic sites intact without sign of infection, 
nondistended and soft.
 
Pertinent Results:
#ERROR!
ADMISSION LABS
#ERROR!
___ 11:55AM   ___ PTT-27.9 ___
___ 11:55AM   PLT COUNT-198
___ 11:55AM   NEUTS-81.1* LYMPHS-13.5* MONOS-4.3* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-4.75# AbsLymp-0.79* AbsMono-0.25 
AbsEos-0.00* AbsBaso-0.01
___ 11:55AM   WBC-5.9 RBC-4.36 HGB-13.3 HCT-39.7 MCV-91 
MCH-30.5 MCHC-33.5 RDW-13.7 RDWSD-45.6
___ 11:55AM   ASA-4 ETHANOL-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 11:55AM   ALBUMIN-4.3 CALCIUM-8.8 PHOSPHATE-2.8 
MAGNESIUM-1.5*
___ 11:55AM   cTropnT-<0.01
___ 11:55AM   LIPASE-20
___ 11:55AM   ALT(SGPT)-15 AST(SGOT)-21 ALK PHOS-117* TOT 
BILI-0.6
___ 11:55AM   estGFR-Using this
___ 11:55AM   GLUCOSE-158* UREA N-13 CREAT-0.8 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-97 TOTAL CO2-23 ANION GAP-20
___ 12:04PM   O2 SAT-38
___ 12:04PM   LACTATE-2.5*
___ 12:04PM   ___ PO2-22* PCO2-37 PH-7.48* TOTAL 
CO2-28 BASE XS-2
___ 01:30PM URINE  RBC-11* WBC-3 BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 01:30PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-TR* KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:30PM URINE  UHOLD-HOLD
___ 01:30PM URINE  HOURS-RANDOM
___ 12:25PM   ___ PTT-28.2 ___
___ 12:25PM   PLT SMR-NORMAL PLT COUNT-162
___ 12:25PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:25PM   NEUTS-65 BANDS-9* ___ MONOS-3* EOS-1 
BASOS-0 ___ MYELOS-0 AbsNeut-3.77 AbsLymp-1.12* 
AbsMono-0.15* AbsEos-0.05 AbsBaso-0.00*
___ 12:25PM   WBC-5.1 RBC-3.56* HGB-11.0* HCT-32.6* MCV-92 
MCH-30.9 MCHC-33.7 RDW-14.0 RDWSD-47.5*
___ 12:25PM   FREE T4-1.0
___ 12:25PM   TSH-1.3
___ 12:25PM   TRIGLYCER-169* HDL CHOL-30* CHOL/HDL-7.0 
LDL(CALC)-146*
___ 12:25PM   CALCIUM-7.9* PHOSPHATE-2.9 MAGNESIUM-1.5* 
CHOLEST-210*
___ 12:25PM   GLUCOSE-98 UREA N-11 CREAT-0.7 SODIUM-138 
POTASSIUM-2.9* CHLORIDE-104 TOTAL CO2-23 ANION GAP-14
___ 01:27PM   %HbA1c-5.8 eAG-120
___ 06:55PM   PLT COUNT-173
___:55PM   WBC-5.1 RBC-3.78* HGB-11.6 HCT-35.0 MCV-93 
MCH-30.7 MCHC-33.1 RDW-13.9 RDWSD-47.6*
___ 06:55PM   CALCIUM-8.3* PHOSPHATE-2.3* MAGNESIUM-2.5
___ 06:55PM   GLUCOSE-111* UREA N-8 CREAT-0.7 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-21* ANION GAP-17

#ERROR!
PERTINENT LABS
#ERROR!

#ERROR!
DISCHARGE LABS
#ERROR!

#ERROR!
MICROBIOLOGY
#ERROR!
___ 12:25 pm SEROLOGY/BLOOD
   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      POSITIVE BY EIA. 
           (Reference Range-Negative). 

#ERROR!
IMAGING
#ERROR!
___ CT CHEST W/CONTRAST
1. Multiple indeterminate pulmonary nodules, largest measures 
0.4 cm.
2. Multiple hepatic lesions, predominantly present cysts.  1.8 
cm indeterminate hepatic lesion in the caudate lobe, consider 
MRI in further evaluation if indicated.

___  CT ABD & PELVIS WITH CO
1. Findings consistent with colitis involving the left colon. 
2. Focal intussusception of the sigmoid colon without associated 
bowel obstruction.  Given intussusception, colonoscopy must be 
performed to exclude underlying mass. 
3. Multiple hepatic hypodensities likely a combination of cysts 
and 
hemangiomas. 
(Normal CT ABD PELVIS ON ___

___ CXR (PA & LAT):
- Mild interstitial edema without focal consolidation.

___  CT HEAD W/O CONTRAST:
- No acute intracranial process. 
- 8 mm focal subcortical right frontal hypodensity is 
nonspecific, but appears old and may relate to prior ischemia.  
MRI is more sensitive in detecting acute ischemia and small 
intracranial lesions. 
- The right globe is elongated and asymmetrically larger than 
the left. Correlate with myopia or other chronic process. 
 
Brief Hospital Course:
Mrs. ___ is a ___ year-old woman with history of 
hypertension and chronic abdominal pain who presented to the 
___ ED ___ with abdominal pain, nausea, vomiting, melena, 
diarrhea and an episode of weakness and confusion found to have 
colitis and intussusception. History notable for acute abdominal 
pain 1 week prior to admission, with fever up to 104, headache, 
black tarry bowel movements. Chronic use of NSAIDs and recent 
travel. Imaging notable for sigmoid intussusception and left 
colon colitis. Etiology of intussusception concerning for mass 
effect. Colitis is worrisome for infection vs ischemia vs 
inflammation/ diverticulitis(especially given chronic abdominal 
pain worsening with food and what seemed to be a TIA in the ED). 
Given recent NSAID use and travel, also concern for 
h.pylori/ulcer. Colonoscopy showed congestion in descending 
colon consistent with colitis, and a large 8cm polyp in the 
sigmoid colon. Biopsy was sent from the polyp and throughout the 
colon as rush path, preliminarily tubular villous adenoma. CEA 
2.3. Positive H. pylori serum Ag. GI and CRS following. Plan OR 
___ for lap sig colectomy.

#Abdominal mass
#Colitis
#Abdominal pain
Etiology likely ___ to 8cm mass causing intussusception leading 
to ?ischemic colitis. Currently stable with no pain. Laproscipic 
sigmoid colectomy. Also found to have + h. pylori serum antigen. 


#AMS: Question of Stroke
Has returned to baseline as of admission. Neuro exam normal. 
Hypodensities noted on head CT c/f old infarcts. Neurology 
consulted and recommend follow-up after discharge but no further 
MRI workup at this time.

#HTN: On home Enalapril Maleate 20 mg PO daily. Held because of 
possible GIB.

TRANSITIONAL ISSUES:
- Follow up biopsy results
- Will need Neurology follow up for head CT findings and 
possible MRI (8 mm focal subcortical right frontal hypodensity, 
nonspecific, but appears old and may relate to prior ischemia.  
MRI is more sensitive in detecting acute ischemia and small 
intracranial lesions.).
- Will need fasting lipid profile (LDL 146 on ___, unclear if 
this was fasting), if LDL remains elevated, start on Atorva 40.
- Will need GI f/u for MRI evaluation of 1.8 cm indeterminate 
hepatic lesion in the caudate lobe found on CT.
- Will need CT follow up in ___ for CT chest findings of 
multiple indeterminate pulmonary nodules, largest measures 0.4 
cm.
- Positive H.pylori serology, stool antigen pending; will need 
confirmation of active infection and trtmt

Mrs. ___ was admitted to the colorectal surgery service 
post-operatively. On the first day after surgery she tolerated 
clear liquids and was able to void after foley catheter removal. 
She was doing very well. Intravenous fluids were stopped. She 
was given oral pain medication. On ___ she had passed flatus 
and tolerated a regular diet. She was discharged home in stable 
condition. She met with an interpreter and the nursing staff to 
review her discharge instruction. 
 
Medications on Admission:
esomeprazole 40mg BID
Sertral compuesto (Lysine Clonixinate 125mg, Propinox 
Clorhidrate 10mg) BID
Enalapril 20mg daily
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Moderate 
do not drink alcohol while taking 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*45 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
do not drink alcohol or drive a car while taking this medication 

RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
3.  Enalapril Maleate 20 mg PO DAILY HTN  
4.  Esomeprazole 40 mg Other BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colon polyp causing interoception.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 
You were admitted to the hospital after a Laparoscopic resection 
of the proximal rectum and distal sigmoid colon for surgical 
management of your Colon polyp causing obstruction. You have 
recovered from this procedure well and you are now ready to 
return home. Samples of tissue were taken and this tissue has 
been sent to the pathology department for analysis. You will 
receive these pathology results at your follow-up appointment. 
If there is an urgent need for the surgeon to contact you 
regarding these results they will contact you before this time. 
You have tolerated a regular diet, are passing gas and your pain 
is controlled with pain medications by mouth. You may return 
home to finish your recovery.  
 
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient_x0092_s to have some decrease in bowel function 
but you should not have prolonged constipation. Some loose stool 
and passing of small amounts of dark, old appearing blood are 
expected. However, if you notice that you are passing bright red 
blood with bowel movements or having loose stool without 
improvement please call the office or go to the emergency room 
if the symptoms are severe. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace, and if the symptoms do not improve call the 
office.

If you have any of the following symptoms please call the office 
for advice ___: 
fever greater than 101.5
increasing abdominal distension
increasing abdominal pain 
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation  
inability to urinate

Incisions:
You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures. These are healing well 
however it is important that you monitor these areas for signs 
and symptoms of infection including: increasing redness of the 
incision lines, white/green/yellow/malodorous drainage, 
increased pain at the incision, increased warmth of the skin at 
the incision, or swelling of the area.

You may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips), these will fall off 
over time, please do not remove them. Please no baths or 
swimming until cleared by the surgical team. 

Pain
It is expected that you will have pain after surgery and this 
pain will gradually improved over the first week or so you are 
home. You will especially have pain when changing positions and 
with movement. You should continue to take 2 Extra Strength 
Tylenol (___) for pain every 8 hours around the clock and you 
may also take Advil (Ibuprofen) 600mg every hours for 7 days. 
Please do not take more than 3000mg of Tylenol in 24 hours or 
any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while or Tylenol. Please take 
Advil with food. If these medications are not controlling your 
pain to a point where you can ambulate and preform minor tasks, 
you should take a dose of the narcotic pain medication 
Oxycodone. Please take this only if needed for pain. Do not take 
with any other sedating medications or alcohol. Do not drive a 
car if taking narcotic pain medications. 

Activity
You may feel weak or "washed out" for up to 6 weeks after 
surgery. No heavy lifting greater than a gallon of milk for 3 
weeks. You may climb stairs. You may go outside and walk, but 
avoid traveling long distances until you speak with your 
surgical team at your first follow-up visit. Your surgical team 
will clear you for heavier exercise and activity as the observe 
your progress at your follow-up appointment. You should only 
drive a car on your own if you are off narcotic pain medications 
and feel as if your reaction time is back to normal so you can 
react appropriately while driving. 
 
Followup Instructions:
___